US06221865B1
2-Methoxy-4-nitro-3′-methylbiphenyl
The title compound was prepared by reaction of 1-bromo-2-methoxy4-nitrobenzene with 3-methylphenylboronic acid in the presence of palladium acetate.

reactant | 1-bromo-2-methoxy4-nitrobenzene | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | 3-methylphenylboronic acid | CC=1C=C(C=CC1)B(O)O | C7H9BO2
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Methoxy-4-nitro-3′-methylbiphenyl | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC(=CC=C1)C | C14H13NO3
